US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, with methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (50 mg, 0.17 mmol, 1.00 equiv) and 4-methoxyphenylboronic acid (38 mg, 0.25 mmol, 1.50 equiv) as reactants. Purification via Prep-TLC (silica gel) yielded 25 mg (42%) of 3-(4-methoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.17 mmol, 50 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | 4-methoxyphenylboronic acid | 0.25 mmol, 38 mg, 1.50 equiv | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 3-(4-methoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid | 25 mg, 42% | COC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C22H16N2O3
